US07812047B2
A solution of 3-(8-ethyl-naphthalen-1-yl)-propane-1,2-diamine (60 mg) in EtOH (6 ml) was treated at r.t. under an argon atmosphere with formamidine acetate (30 mg). The reaction mixture was stirred at r.t. overnight, then concentrated. The crude product was purified by column chromatography (silica gel; eluent: CH2Cl2→CH2Cl2/MeOH 9:1) to give (RS)-4-(8-ethyl-naphthalen-1-ylmethyl)-4,5-dihydro-1H-imidazole (38 mg) as light yellow gum. MS (ISP): 239.3 ((M+H)+).

reactant | 3-(8-ethyl-naphthalen-1-yl)-propane-1,2-diamine | 60 mg | C(C)C=1C=CC=C2C=CC=C(C12)CC(CN)N | C15H20N2
reactant | formamidine acetate | 30 mg | C(C)(=O)O.C(=N)N
solvent | EtOH | 6 ml | CCO | C2H6O
product | (RS)-4-(8-ethyl-naphthalen-1-ylmethyl)-4,5-dihydro-1H-imidazole | 38 mg | C(C)C=1C=CC=C2C=CC=C(C12)CC1N=CNC1 | C16H18N2
